US09079911B2
Step D: 2-Fluoro-6-pyrimidin-2-yl-benzoic acid.
To a solution of 2-fluoro-6-pyrimidin-2-yl-benzoic acid methyl ester (1.36 g, 5.85 mmol) in 2-methyl-THF (20 mL) was added sodium hydroxide (2 M in water, 9.3 mL, 18.6 mmol). The mixture was heated to 72° C. and stirred for 9 h. The layers were separated and the aqueous layer acified to pH 2 by dropwise addition of 50% HCl(aq) (3.1 mL). The resulting solids were stirred for 1 h, filtered, washed with water, MTBE, and heptanes, and then dried to provide the desired product as a white solid (1.12 g, 88% yield). 1H NMR (400 MHz, CD3OD): 8.83 (d, J=4.9 Hz, 2H), 8.03 (dd, J=7.9, 0.8 Hz, 1H), 7.59 (td, J=8.1, 5.6 Hz, 1H), 7.40 (t, J=4.9 Hz, 1H), 7.34 (ddd, J=9.4, 8.4, 1.0 Hz, 1H).

reactant | 2-fluoro-6-pyrimidin-2-yl-benzoic acid methyl ester | 5.85 mmol, 1.36 g | COC(C1=C(C=CC=C1C1=NC=CC=N1)F)=O | C12H9FN2O2
reactant | sodium hydroxide | 18.6 mmol, 2 M, 9.3 mL | [OH-].[Na+]
product | 2-Fluoro-6-pyrimidin-2-yl-benzoic acid | 1.12 g, 88% yield | FC1=C(C(=O)O)C(=CC=C1)C1=NC=CC=N1 | C11H7FN2O2
